US05872111
Synthesis of N-Hexadecyl-D-Glucosylamine
A 2 L two neck round bottom flask equipped with condenser was charged with D(+) glucose (60 g, 0.333 moles), 2-propanol (900 mL), hexadecylamine (81 g, 0.334 moles) and deionized water (300 mL). The reaction was stirred and heated to 50°-55° celsius for 1 hour to obtain a homogeneous solution. The reaction was then allowed to run overnight at room temperature. The reaction precipitated out after 2-3 hours.

reactant | glucose | 0.333 moles, 60 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 2-propanol | 900 mL | CC(C)O | C3H8O
reactant | hexadecylamine | 0.334 moles, 81 g | C(CCCCCCCCCCCCCCC)N | C16H35N
solvent | water | 300 mL | O | H2O
product | N-Hexadecyl-D-Glucosylamine | C(CCCCCCCCCCCCCCC)NC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C22H45NO5
